US04597902
N-[2-(Phenylsulfonyl)ethyl]benzenemethanamine hydrochloride[1:1]
A mixture of 71.90 g (0.352 mole) of 2-chloroethyl phenyl sulfone, 37.45 g (0.350 mole) of benzylamine and 60 ml of triethylamine in 800 ml of acetonitrile was stirred at room temperature for ≈64 hr. The solvent was removed in vacuo and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was dried over magnesium sulfate, and the volume was reduced in vacuo to 300 ml. Methanol was added followed by an excess of ethereal hydrogen chloride. A white precipitate was collected to give 81.30 g (74.5%) of white, crystalline solid, m.p. 211°-213° C.

reactant | 2-chloroethyl phenyl sulfone | 0.352 mole, 71.90 g | C1(=CC=CC=C1)S(=O)(=O)CCCl | C8H9ClO2S
reactant | benzylamine | 0.350 mole, 37.45 g | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | N-[2-(Phenylsulfonyl)ethyl]benzenemethanamine hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)CCNCC1=CC=CC=C1 | InChI=1S/C15H17NO2S.ClH/c17-19(18,15-9-5-2-6-10-15)12-11-16-13-14-7-3-1-4-8-14;/h1-10,16H,11-13H2;1H
